US07700638B2
7-(3-Aminophenyl)-5-hydroxymethyl-1-phenylbenzimidazole
To a stirred suspension of lithium alumina hydride (0.24 g, 6.16 mmol) in anhydrous diethyl ether (20 ml) was added 7-(3-aminophenyl)-5-ethoxycarbonyl-1-phenylbenzimidazole (1.1 g, 3.08 mmol). Stirring was continued for 48 hours at ambient temperature in a nitrogen atmosphere. Aqueous sodium bicarbonate (2M) was added and the resultant mixture was extracted with ethyl acetate. This extract was dried over magnesium sulphate and concentrated under reduced pressure. The concentrate was eluted through silica gel with a mixture of ethyl acetate and methanol (9:1 v/v). Removal of solvent from the eluate left the title product as a yellow solid (0.38 g, 39%) m/z, 316.1 (M+H)+.

reactant | 7-(3-aminophenyl)-5-ethoxycarbonyl-1-phenylbenzimidazole | 3.08 mmol, 1.1 g | NC=1C=C(C=CC1)C1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(=O)OCC | C22H19N3O2
reactant | sodium bicarbonate | 2M | C([O-])(O)=O.[Na+]
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 7-(3-Aminophenyl)-5-hydroxymethyl-1-phenylbenzimidazole | NC=1C=C(C=CC1)C1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)CO | C20H17N3O
